US07700641B2
Synthesis of 1′-[(2-isopropyl-1,3-oxazol-4-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 4-chloromethyl-2-isopropyloxazole to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (22%) as a colorless solid: mp 118-120° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.97 (s, 1H), 7.24 (t, 1H), 7.13 (d, 1H), 7.05 (d, 1H), 6.98 (t, 1H), 6.65 (s, 1H), 6.26 (s, 1H), 5.88 (d, 2H), 4.85 (d, 1H), 4.77 (d, 1H), 4.71-4.66 (m, 2H), 3.04-2.95 (m, 1H), 1.18 (dd, 6H); 13C NMR (75 MHz, DMSO-d6) δ 176.9, 169.1, 155.6, 148.7, 142.4, 142.2, 136.8, 135.2, 132.4, 129.2, 123.9, 123.4, 120.5, 109.9, 103.6, 101.9, 93.7, 79.9, 57.9, 36.2, 28.1, 20.7, 20.6; MS (ES+) m/z 405.2 (M+1).

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | 4-chloromethyl-2-isopropyloxazole | ClCC=1N=C(OC1)C(C)C | C7H10ClNO
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′-[(2-isopropyl-1,3-oxazol-4-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | C(C)(C)C=1OC=C(N1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C23H20N2O5
